US06417212B1
A mixture of 4-benzyloxy-2-propylphenol (3.89 mmol), toluene-4-sulfonic acid 2-(5-methyl-2-biphenyl-4-yl-oxazol-4-ly) ethyl ester (4.67 mmol) (see Ex. 1, part F) and cesium carbonate (1.65 g 5.06 mmol) in anhydrous DMF (8 mL) was heated for 18 h at 55° C. The mixture was concentrated in vacuo, and the residue was partitioned between ethyl acetate (100 mL) and water (50 mL), washed with brine (50 mL), dried (Na2SO4), and removed in vacuo to give a crude oil which was purified using the Biotage FlashElute chromatography system using a 40 L normal phase cartridge, eluting with 10-15% ethyl acetate/hexanes to give 4-[2-(4-benzyloxy-3-propylphenoxy)ethyl]-5-methyl-2-phenyloxazole.

reactant | 4-benzyloxy-2-propylphenol | 3.89 mmol | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)O)CCC | C16H18O2
reactant | toluene-4-sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | cesium carbonate | 5.06 mmol, 1.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 4-[2-(4-benzyloxy-3-propylphenoxy)ethyl]-5-methyl-2-phenyloxazole | C(C1=CC=CC=C1)OC1=C(C=C(OCCC=2N=C(OC2C)C2=CC=CC=C2)C=C1)CCC | C28H29NO3
